US03966733
To a solution of 161.0 g of α, α, α-trifluoro-m-toluidine in 500 ml of 2N hydrochloric acid, at room temperature, with vigorous agitation, is added rapidly 102.0 g of acetic anhydride. An exothermic reaction occurs and the temperature is allowed to rise spontaneously to about 50°. Subsequently, the mixture is allowed to cool to room temperature, and then cooled in ice. The crystalline solid is filtered to give 189.3 g of α,α,α-trifluoro-m-acetotoluidide.

reactant | α, α, α-trifluoro-m-toluidine | 161.0 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | acetic anhydride | 102.0 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | hydrochloric acid | 2N, 500 ml | Cl | ClH
product | α,α,α-trifluoro-m-acetotoluidide | 189.3 g | CC(=O)NC1=CC=CC(=C1)C(F)(F)F | C9H8F3NO
